US07847101B2
Preparation 3: Synthesis of 4-Fluorobenzothiazol-2-ylamine
To a suspension of (2-fluorophenyl)thiourea (1.7 g, 10.0 mmol) in chloroform (25ml) was added a solution of bromine (0.51 mL; 10.0 mmol) dropwise at room temperature. The resulting mixture was heated under reflux for 3 hrs. The solvent was evaporated, water was added and the mixture was neutralized with ammonium hydroxide. The resulting white precipitation was collected by filtration and dried to yield 1.2 g (72%) of the title compound which was used in the subsequent step without further purification.

reactant | (2-fluorophenyl)thiourea | 10.0 mmol, 1.7 g | FC1=C(C=CC=C1)NC(=S)N | C7H7FN2S
reactant | bromine | 10.0 mmol, 0.51 mL | BrBr | Br2
solvent | chloroform | 25ml | C(Cl)(Cl)Cl | CHCl3
product | 4-Fluorobenzothiazol-2-ylamine | 1.2 g, 72% | FC1=CC=CC2=C1N=C(S2)N | C7H5FN2S
